US06384033B1
3) N-t-Butyl-5-chloro-2-pyridinecarboxamide
The title compound was prepared by the same method as that described in Example 27, using 5-chloro-2-pyridinecarboxylic acid and t-butylamine.

reactant | 5-chloro-2-pyridinecarboxylic acid | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | N-t-Butyl-5-chloro-2-pyridinecarboxamide | C(C)(C)(C)NC(=O)C1=NC=C(C=C1)Cl | C10H13ClN2O
